US04808595
Step D: Preparation of 2-Sulfamoyl-6-methylfuro[3,2-c]pyridine
To a solution of distilled diisopropylamine (7.6 ml, 59 mmol) in distilled tetrahydrofuran (60 ml), under a nitrogen atmosphere and cooled to -70° C., was added 1.6M butyl lithium in hexane (34.4 ml, 55 mmol). After stirring for 0.5 hour a solution of 6-methylfuro[3,2-c]pyridine (6.66 g, 50 mmol) in tetrahydrofuran (50 ml) was added dropwise. After stirring 1.5 hours, sulfur dioxide gas was bubbled over the reaction surface to give a tan precipitate. The reaction mixture was allowed to warm to room temperature and then diluted with diethyl ether and the precipitate collected by filtration. This lithium sulfinate salt (17.6 g) was air dried and then dissolved in water (90 ml). Sodium acetate trihydrate (29 g, 0.21 mol) and hydroxylamine-o-sulfonic acid (11.5 g, 0.10 mol) were added and the solution was stirred at room temperature for 20-25 hours as the product precipitated. This product was filtered and dissolved in ethyl acetate/methanol, dried over anhydrous sodium sulfate, and filtered through a charcoal pad. The evaporated residue was triturated with diethyl ether to give nearly pure product (5.19 g, 49% yield). Recrystallization from hot ethyl acetate containing a little methanol to effect initial dissolution afforded pure product, mp 233°-234.5° C.

reactant | diisopropylamine | 59 mmol, 7.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 1.6M | C(CCC)[Li]
reactant | hexane | 55 mmol, 34.4 ml | CCCCCC | C6H14
reactant | 6-methylfuro[3,2-c]pyridine | 50 mmol, 6.66 g | CC1=CC2=C(C=N1)C=CO2 | C8H7NO
reactant | Sodium acetate trihydrate | 0.21 mol, 29 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-o-sulfonic acid | 0.10 mol, 11.5 g | NOS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Sulfamoyl-6-methylfuro[3,2-c]pyridine | 5.19 g, 49% yield | S(N)(=O)(=O)C1=CC=2C=NC(=CC2O1)C | C8H8N2O3S
